US06391891B1
N-[2,3-Dichloro-4-(pyridin-4-yl)phenyl]acetamide (D8)
The title compound was prepared from N-[4-bromo-2,3-dichlorophenyl]acetamide and pyridin-4-ylboronic acid using a similar procedure to Description 3.

reactant | N-[4-bromo-2,3-dichlorophenyl]acetamide | BrC1=C(C(=C(C=C1)NC(C)=O)Cl)Cl | C8H6BrCl2NO
reactant | pyridin-4-ylboronic acid | N1=CC=C(C=C1)B(O)O | C5H6BNO2
product | N-[2,3-Dichloro-4-(pyridin-4-yl)phenyl]acetamide | ClC1=C(C=CC(=C1Cl)C1=CC=NC=C1)NC(C)=O | C13H10Cl2N2O
